US05112998
To 20 ml of a tetrahydrofuran solution of the isoamylmagnesium bromide prepared from 2.27 g of isoamyl bromide and 0.48 g of magnesium was slowly added a solution of 5.12 g of 1α, 3β-bis(tetrahydropyran-2-yloxy)pregna-5,7-diene-20-carbaldehyde in 30 ml of tetrahydrofuran under ice-cooling. After the addition, the mixture was further stirred at 0° C. for 1 hour. To the reaction mixture thus obtained was added 2N aqueous sodium hydroxide solution, followed by extraction with diethyl ether. The extract was washed with aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The low-boiling fraction was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography. The procedure yielded 4.84 g of 1α,3β-bis(tetrahydropyran-2-yloxy)cholesta-5,7-dien-22-ol (yield: 83%) showing the following physical property.

reactant | isoamylmagnesium bromide | C(CC(C)C)[Mg]Br
reactant | isoamyl bromide | 2.27 g | C(CC(C)C)Br | C5H11Br
reactant | magnesium | 0.48 g | [Mg] | Mg
reactant | 1α, 3β-bis(tetrahydropyran-2-yloxy)pregna-5,7-diene-20-carbaldehyde | 5.12 g | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C32H48O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tetrahydropyran-2-yloxy)cholesta-5,7-dien-22-ol | 4.84 g, yield: 83% | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](C(CCC(C)C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C37H60O5
